US04510257
A solution of 2-(2-silylethyl)pyridine oligosilsesquioxane pillar material was prepared from a methanol solution of 2-(2-trichlorosilylethyl)pyridine (24 grams of 2-(2-trichlorosilylethyl)pyridine in 175 ml of methanol) by adding 10.5 ml of water. The mixture was stirred for 1 hour while maintaining the temperature below 30° C.

reactant | methanol | CO | CH4O
reactant | 2-(2-trichlorosilylethyl)pyridine | 175 ml, 24 grams | Cl[Si](CCC1=NC=CC=C1)(Cl)Cl | C7H8Cl3NSi
solvent | water | 10.5 ml | O | H2O
product | 2-(2-silylethyl)pyridine | [SiH3]CCC1=NC=CC=C1 | C7H11NSi
